US04822787
To a solution of (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-{(2-ureidoethyl)oxymethyl}-pyrrolidin-4-yl]thio-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.15 g) in water (30 ml) was added ethyl acetimidate hydrochloride (1.65 g) by portions at 0°-5° C., keeping the pH between 8.4-8.6 with 10% aqueous potassium carbonate. After adjusting to pH 6.5 with lN aqueous hydrochloric acid, the solution was washed with 10% solution of tetrahydrofuran in ethyl acetate (50 ml) by four portions and the organic solvent was removed by evaporation. The residual solution was subjected to a column chromatography on nonionic adsorption resin, "HP-20" (30 ml), washed with water, eluted with 5% aqueous isopropyl alcohol and lyophilized to give (4R,5S,6S)-3-[(2S,4S)-1-acetimidoyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[ (1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.11 g).

reactant | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-{(2-ureidoethyl)oxymethyl}-pyrrolidin-4-yl]thio-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.15 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)S[C@H]1C[C@H](NC1)COCCNC(=O)N)C | C18H28N4O6S
reactant | ethyl acetimidate hydrochloride | 1.65 g | Cl.C(C)(OCC)=N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | (4R,5S,6S)-3-[(2S,4S)-1-acetimidoyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[ (1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.11 g | C(C)(=N)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)O)COCCNC(=O)N | C20H31N5O6S
